US08536197B2
(218a) Ethyl 2-{3-[(tert-butoxycarbonyl)amino]azetidin-1-yl}-4-methyl-1,3-thiazole-5-carboxylate
The same operation as in Example (217a) was performed using 3-tert-butoxycarbonylaminoazetidine (300 mg, 1.74 mmol), ethyl 2-bromo-4-methylthiazole-5-carboxylate (479 mg, 1.92 mmol) and diisopropylethylamine (0.61 mL, 3.48 mmol), to obtain 265 mg of the title compound as a pale yellow solid (45%).

reactant | 3-tert-butoxycarbonylaminoazetidine | 1.74 mmol, 300 mg | C(C)(C)(C)OC(=O)NC1CNC1 | C8H16N2O2
reactant | ethyl 2-bromo-4-methylthiazole-5-carboxylate | 1.92 mmol, 479 mg | BrC=1SC(=C(N1)C)C(=O)OCC | C7H8BrNO2S
reactant | diisopropylethylamine | 3.48 mmol, 0.61 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | Ethyl 2-{3-[(tert-butoxycarbonyl)amino]azetidin-1-yl}-4-methyl-1,3-thiazole-5-carboxylate | 265 mg, 45% | C(C)(C)(C)OC(=O)NC1CN(C1)C=1SC(=C(N1)C)C(=O)OCC | C15H23N3O4S
